US08067448B2
N-(4-(5-((1R,2R)-1-(3-Chloro-4-cyano-2-methylphenylamino)-2-hydroxypropyl)-1,3,4-oxadiazol-2-yl)phenyl)acetamide
To a pre-cooled (−55° C.) solution of N-(4-(5-((1R,2R)-2-(tert-butyldimethylsilyloxy)-1-(3-chloro-4-cyano-2-methylphenylamino)propyl)-1,3,4-oxadiazol-2-yl)phenyl)acetamide (246 mg, 0.45 mmol) in THF (20 mL) was added TBAF (0.55 mL, 0.55 mmol, 1 M solution in THF) over 5 minutes. Upon complete addition the reaction mixture was allowed to warm to 10° C. over 2.5 h and quenched with sat. aq. NH4Cl (30 mL). The resulting mixture was partitioned between H2O (25 mL) and EtOAc (35 mL). The aqueous layer was extracted with EtOAc (30 mL). The combined organic extracts were dried (Na2SO4), filtered and concentrated under reduced pressure to provide an off white solid, which was purified by flash chromatography over silica gel (60-100% EtOAc in hexanes) to provided the title compound as a colourless solid (150 mg, 78%): 1H NMR (400 MHz, d6-acetone, δ in ppm) 9.47 (s 1H), 7.90 (dm, J=8.8 Hz, 2H), 7.81 (dm, J=8.8 Hz, 2H), 7.49 (d, J=8.6 Hz, 1H), 6.88 (d, J=8.8 Hz, 1H), 5.86 (d, J=8.8 Hz, 1H), 5.04 (dd, J=5.3, 8.6 Hz, 1H), 4.68 (br s, 1H), 4.51 (pentet, J=6.1 Hz, 1H), 2.36 (s, 3H), 2.12 (s, 3H), 1.42 (d, J=6.5 Hz, 3H).

reactant | N-(4-(5-((1R,2R)-2-(tert-butyldimethylsilyloxy)-1-(3-chloro-4-cyano-2-methylphenylamino)propyl)-1,3,4-oxadiazol-2-yl)phenyl)acetamide | 0.45 mmol, 246 mg | [Si](C)(C)(C(C)(C)C)O[C@@H]([C@@H](NC1=C(C(=C(C=C1)C#N)Cl)C)C1=NN=C(O1)C1=CC=C(C=C1)NC(C)=O)C | C27H34ClN5O3Si
reactant | TBAF | 0.55 mmol, 1 M, 0.55 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | N-(4-(5-((1R,2R)-1-(3-Chloro-4-cyano-2-methylphenylamino)-2-hydroxypropyl)-1,3,4-oxadiazol-2-yl)phenyl)acetamide | 150 mg, 78% | ClC=1C(=C(C=CC1C#N)N[C@H]([C@@H](C)O)C1=NN=C(O1)C1=CC=C(C=C1)NC(C)=O)C | C21H20ClN5O3
